US09359381B2
Step 4: 6-(3-((tert-Butyldimethylsilyl)oxy)-2-hydroxypropyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
Tert-butyldimethylsilyl chloride (0.695 g, 4.61 mmol) was added to a solution of 6-(2,3-dihydroxypropyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (1.82 g, 4.19 mmol), imidazole (0.571 g, 8.38 mmol) and DMAP (0.512 g, 4.19 mmol) in DMF (13.97 mL). The mixture was stirred at room temperature for 3 hours, then diluted with 10% aqueous citric acid solution (15 mL) and extracted with DCM (3×30 mL). The combined organic extracts were dried over magnesium sulfate and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-50% EtOAc/hexane, afforded the title compound.

reactant | Tert-butyldimethylsilyl chloride | 4.61 mmol, 0.695 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 6-(2,3-dihydroxypropyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 4.19 mmol, 1.82 g | OC(CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)F)=O)C)=O)C)CO | C17H18FN3O4
reactant | imidazole | 8.38 mmol, 0.571 g | N1C=NC=C1 | C3H4N2
catalyst | DMAP | 4.19 mmol, 0.512 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 13.97 mL | CN(C)C=O | C3H7NO
solvent | citric acid | 15 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 6-(3-((tert-Butyldimethylsilyl)oxy)-2-hydroxypropyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | [Si](C)(C)(C(C)(C)C)OCC(CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)F)=O)C)=O)C)O | C23H32FN3O4Si
